US07932284B2
Method Z-1 Place N-[3-(4-Cyano-phenyl)-1-isopropyl-1H-indol-6-yl]-methanesulfonamide (500 mg, 1.41 mmol), sodium hyposulfite hydrate (311 mg, 3.53 mmol) and Raney nickel (50% soln in water, 700 μL, 2.96 mmol) in a round bottom flask then add water (6 mL), glacial acetic acid (12 mL) and pyridine (12 mL). Warm to 50° C., and stir for 1.5 hours. Cool to ambient temperature; dilute with water (10 mL); and extract with ethyl acetate (10 mL×3). Combine organic layers, and wash with saturated sodium bicarbonate, water (×3) and brine. Dry over sodium sulfate, and concentrate in vacuo. Purify residue by flash chromatography on silica (2-50% ethyl acetate in hexanes) to give N-[3-(4-formyl-phenyl)-1-isopropyl-1H-indol-6-yl]-methanesulfonamide (413.1 mg, 82%). LRMS (API ES−)=355.0 (M−H).

reactant | N-[3-(4-Cyano-phenyl)-1-isopropyl-1H-indol-6-yl]-methanesulfonamide | 1.41 mmol, 500 mg | C(#N)C1=CC=C(C=C1)C1=CN(C2=CC(=CC=C12)NS(=O)(=O)C)C(C)C | C19H19N3O2S
reactant | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
reactant | pyridine | 12 mL | N1=CC=CC=C1 | C5H5N
catalyst | Raney nickel | 2.96 mmol, 700 μL | [Ni] | Ni
solvent | water | 10 mL | O | H2O
solvent | water | 6 mL | O | H2O
product | N-[3-(4-formyl-phenyl)-1-isopropyl-1H-indol-6-yl]-methanesulfonamide | 413.1 mg, 82% | C(=O)C1=CC=C(C=C1)C1=CN(C2=CC(=CC=C12)NS(=O)(=O)C)C(C)C | C19H20N2O3S
